US08304419B2
Step A: 4-chloro-5-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-2-sulfonamide
Ammonium hydroxide (5.0 mL, 128 mmol) was added to a 0° C. solution of 4-chloro-5-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-2-sulfonyl chloride (1.33 g, 2.8 mmol) in acetone (4.5 mL) and THF (2.5 mL). The reaction mixture was stirred at RT for 30 min and evaporated. The residue was taken up in EtOAc and washed with brine. The organic phase was dried (Na2SO4), filtered, evaporated, and purified by silica gel chromatography (0-25% EtOA/hexanes) to give the title compound (0.95 g, 74%) as a light yellow oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 5.71 (s, 2H), 5.37 (br. s., 2H), 4.75 (s, 2H), 3.59-3.70 (m, 2H), 0.92-0.97 (m, 2H), 0.91 (s, 9H), 0.11 (s, 6H), 0.02 (s, 9H).

reactant | Ammonium hydroxide | 128 mmol, 5.0 mL | [OH-].[NH4+]
reactant | 4-chloro-5-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-2-sulfonyl chloride | 2.8 mmol, 1.33 g | ClC=1N=C(N(C1CO[Si](C)(C)C(C)(C)C)COCC[Si](C)(C)C)S(=O)(=O)Cl | C16H32Cl2N2O4SSi2
solvent | acetone | 4.5 mL | CC(=O)C | C3H6O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 4-chloro-5-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-2-sulfonamide | 0.95 g, 74% | ClC=1N=C(N(C1CO[Si](C)(C)C(C)(C)C)COCC[Si](C)(C)C)S(=O)(=O)N | C16H34ClN3O4SSi2
